* source ECE4200PROJECT2
V_V1         VIN 0 DC 0  
V_V2         VDD 0 DC 5  
I_I1         0 0 DC 59u  
M_M4         VDD 0 0 VDD AMI06P  
+ L=.6u  
+ W=15.6u  
+ AD={15.6u*1.2u}  
+ AS={15.6u*1.2u}  
+ PD={2*15.6u+2.4u}  
+ PS={2*15.6u+2.4u}     
M_M5         VDD 0 VOUT VDD AMI06P  
+ L=.6u  
+ W=15.6u  
+ AD={15.6u*1.2u}  
+ AS={15.6u*1.2u}  
+ PD={2*15.6u+2.4u}  
+ PS={2*15.6u+2.4u}     
M_M9         VOUT VIN 0 0 AMI06N  
+ L=.6u  
+ W=9.9u  
+ AD={9.9u*1.2u}  
+ AS={9.9u*1.2u}  
+ PD={2*9.9u+2.4u}  
+ PS={2*9.9u+2.4u}     
M_M10         VDD 0 VOUT VDD AMI06P  
+ L=.6u  
+ W=15.6u  
+ AD={15.6u*1.2u}  
+ AS={15.6u*1.2u}  
+ PD={2*15.6u+2.4u}  
+ PS={2*15.6u+2.4u}     
M_M11         VDD 0 VOUT VDD AMI06P  
+ L=.6u  
+ W=15.6u  
+ AD={15.6u*1.2u}  
+ AS={15.6u*1.2u}  
+ PD={2*15.6u+2.4u}  
+ PS={2*15.6u+2.4u}     
M_M12         VDD 0 VOUT VDD AMI06P  
+ L=.6u  
+ W=15.6u  
+ AD={15.6u*1.2u}  
+ AS={15.6u*1.2u}  
+ PD={2*15.6u+2.4u}  
+ PS={2*15.6u+2.4u}     
